US07713979B2
Dissolve (4S,5R)-3-pent-4-enoyl-4,5-diphenyloxazolidin-2-one (1.0 g, 3.1 mmol) in THF (50 mL) and cool the mixture to −78° C. under N2 with stirring. Add dropwise LDA (2.7 mL, 4.0 mmol, 1.5 M in THF) and stir the mixture for 0.5 hours. Then add 2-(bromomethyl)-1-chloro-3-fluorobenzene (1.39 g, 6.22 mmol). Continue to stir the reaction mixture for one hour until TLC shows that the starting material has been consumed. Add water (50 mL) and extract the aqueous with CH2Cl2 (3×250 mL). Combine the organic layers and dry over Na2SO4. Concentrate and purify by chromatography (Silica gel) to afford (4S,5R)-3-((R)-2-(2-Chloro-6-fluorobenzyl)pent-4-enoyl)-4,5-diphenyloxazolidin-2-one (1.44 g, 75.5%).

reactant | (4S,5R)-3-pent-4-enoyl-4,5-diphenyloxazolidin-2-one | 3.1 mmol, 1.0 g | C(CCC=C)(=O)N1C(O[C@@H]([C@@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H19NO3
reactant | LDA | 4.0 mmol, 1.5 M, 2.7 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-(bromomethyl)-1-chloro-3-fluorobenzene | 6.22 mmol, 1.39 g | BrCC1=C(C=CC=C1F)Cl | C7H5BrClF
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4S,5R)-3-((R)-2-(2-Chloro-6-fluorobenzyl)pent-4-enoyl)-4,5-diphenyloxazolidin-2-one | 1.44 g, 75.5% | ClC1=C(C[C@H](C(=O)N2C(O[C@@H]([C@@H]2C2=CC=CC=C2)C2=CC=CC=C2)=O)CC=C)C(=CC=C1)F | C27H23ClFNO3
